US07795272B2
A mixture of 6 g (23 mmol) of cyano(4-methylchroman-4-yl)acetic acid methyl ester and 7.25 g (124 mmol) of sodium chloride in 40 mL of wet DMSO was warmed to reflux. The reaction was monitored by TLC. After 4 hours, the reaction was cooled and diluted with water and extracted with diethyl ether. The combined organic layers were washed with four portions of water, brine, dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 3 g (68%) of (4-methylchroman-4-yl)acetonitrile as an oil.

reactant | cyano(4-methylchroman-4-yl)acetic acid methyl ester | 23 mmol, 6 g | COC(C(C1(CCOC2=CC=CC=C12)C)C#N)=O | C14H15NO3
reactant | sodium chloride | 124 mmol, 7.25 g | [Cl-].[Na+]
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (4-methylchroman-4-yl)acetonitrile | 3 g, 68% | CC1(CCOC2=CC=CC=C12)CC#N | C12H13NO
